US08222424B2
7-Bromo-2,3,4,9-tetrahydro-pyrido[3,4-b]indol-1-one
A solution of 2,3-piperidinedione 3-(3-bromophenyl) hydrazone (2.5 g, 22.3 mmol) in formic acid (40 mL) is refluxed for 1 h then cooled to room temperature. The reaction mixture is neutralized with sodium carbonate to basic condition. The resulting precipitate is filtered and collected. Recrystallization with ethanol provides 1.0 g (56%) of the title compound as a yellow solid.

reactant | 2,3-piperidinedione 3-(3-bromophenyl) hydrazone | 22.3 mmol, 2.5 g | BrC=1C=C(C=CC1)NN=C1C(NCCC1)=O | C11H12BrN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | formic acid | 40 mL | C(=O)O | CH2O2
product | 7-Bromo-2,3,4,9-tetrahydro-pyrido[3,4-b]indol-1-one | 1.0 g, 56% | BrC1=CC=C2C3=C(NC2=C1)C(NCC3)=O | C11H9BrN2O
